US09290451B2
a) 7,7-Dimethyl-5,6,7,8-tetrahydro-1H-quinolin-2-one
A solution of 3,3-dimethylcyclohexanone (10 g, 71.3 mmol) and methyl propiolate (11.5 g, 136 mmol) in ammonia (390 ml, 2.73 mol) was heated and stirred in an autoclave at 140° C. for 16 h. The autoclave was cooled to ambient temperature, and the reaction mixture was transferred into a 1 L round-bottomed flask and was evaporated in vacuo to give a solid residue which was purified by gradient chromatography on silica with ethyl acetate in heptane to give 7.0 g (55%) of the title compound as colorless oil; LC-MS (UV peak area/EIC) 85%, 178.1228 (M+H)+.

reactant | 3,3-dimethylcyclohexanone | 71.3 mmol, 10 g | CC1(CC(CCC1)=O)C | C8H14O
reactant | methyl propiolate | 136 mmol, 11.5 g | C(C#C)(=O)OC | C4H4O2
reactant | ammonia | 2.73 mol, 390 ml | N | H3N
product | 7,7-Dimethyl-5,6,7,8-tetrahydro-1H-quinolin-2-one | 7.0 g, 55% | CC1(CCC=2C=CC(NC2C1)=O)C | C11H15NO
